US07319104B2
A solution of N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-isopropylpyrimidin-2-amine (157 mg; 0.45 mmol) in dry THF was treated under nitrogen with KtBuO (75 mg; 0.67 mmol). After stirring for 15 minutes, 4-trifluoromethoxybenzyl bromide (171 mg; 0.67 mmol) was added and stirred for 30 minutes. The reaction was quenched by addition of an aqueous solution of NaHSO4 and extracted with dichloromethane. The organic phase was washed with brine, dried over MgSO4, filtered and concentrated to afford N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-isopropyl-N-[4-(trifluoromethoxy)benzyl]pyrimidin-2-amine as an oil in moderate yield, which was used in the next step without further purification

reactant | N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-isopropylpyrimidin-2-amine | 0.45 mmol, 157 mg | BrC=1C=C(C=CC1OC)CCNC1=NC=C(C=N1)C(C)C | C16H20BrN3O
reactant | 4-trifluoromethoxybenzyl bromide | 0.67 mmol, 171 mg | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
solvent | THF | C1CCOC1 | C4H8O
product | N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-isopropyl-N-[4-(trifluoromethoxy)benzyl]pyrimidin-2-amine | BrC=1C=C(C=CC1OC)CCN(C1=NC=C(C=N1)C(C)C)CC1=CC=C(C=C1)OC(F)(F)F | C24H25BrF3N3O2
